US08912173B2
4-Bromo-2-methyl-1-(methylsulfonyl)benzene for Example 35
235 mg Sodium sulfite and 470 mg NaHCO3 were dissolved in 1.75 mL of water and heated to 75° C. 500 mg of 4-Bromo-2-methyl-benzenesulfonyl chloride were added in portions within 10 min (gas formation) and the mixture stirred for 1 h at 75° C. 387 mg of Bromoacetic acid and 150 μL of water was added in small portions and the mixture stirred at 105° C. overnight. After cooling to 25° C. the mixture was acidified to pH 1 using 4N HCl. The resulting precipitate was collected and washed with water to yield 205 mg solid.

reactant | Sodium sulfite | 235 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 470 mg | C(=O)(O)[O-].[Na+]
reactant | 4-Bromo-2-methyl-benzenesulfonyl chloride | 500 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | Bromoacetic acid | 387 mg | BrCC(=O)O | C2H3BrO2
reactant | HCl | 4N | Cl | ClH
solvent | water | 1.75 mL | O | H2O
solvent | water | 150 μL | O | H2O
product | 4-Bromo-2-methyl-1-(methylsulfonyl)benzene | 205 mg | BrC1=CC(=C(C=C1)S(=O)(=O)C)C | C8H9BrO2S
